US09085583B2
To a solution of benzyl 2-acetylmorpholine-4-carboxylate (5.0 g, 19 mmol) in THF/MeOH (1/5, 100 mL) were added AcONH4 (14.6 g, 190 mmol) and NaBH3CN (11.8 g, 190 mmol). The mixture was stirred at room temperature for 50 hr. The mixture was concentrated to give the crude. Water (20 mL) was added and the mixture was extracted by ethyl acetate (60 mL*3). 1N HCl was added into the combined organic layers. The aqueous layer was concentrated, brought to above pH >8 with 2N NaOH and extracted by ethyl acetate (60 mL*3). The organic layer was washed with brine, dried over sodium sulfate. The mixture was concentrated to give benzyl 2-(1-aminoethyl)morpholine-4-carboxylate (2.0 g, 40%).

reactant | benzyl 2-acetylmorpholine-4-carboxylate | 19 mmol, 5.0 g | C(C)(=O)C1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
reactant | AcONH4 | 190 mmol, 14.6 g | C(=O)(C)[O-].[NH4+]
reactant | NaBH3CN | 190 mmol, 11.8 g | [BH3-]C#N.[Na+]
reactant | Water | 20 mL | O | H2O
solvent | THF MeOH | 100 mL | C1CCOC1.CO
product | benzyl 2-(1-aminoethyl)morpholine-4-carboxylate | 2.0 g, 40% | NC(C)C1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C14H20N2O3
